US06743776B2
A solution of 4-[4-(4-hexyloxyphenyl)piperazin-1-yl]-benzonitrile (0.582 g) in the mixture of conc. HCl (5.8 ml) and acetic acid (2.9 ml) was refluxed for 3 hours. The reaction mixture was pulverized with water (25 ml). The precipitate was collected by filtration to give 4-[4-(4-hexyloxyphenyl)piperazin-1-yl]benzoic acid hydrochloride (0.51 g).

reactant | 4-[4-(4-hexyloxyphenyl)piperazin-1-yl]-benzonitrile | 0.582 g | C(CCCCC)OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C#N)C=C1 | C23H29N3O
reactant | HCl | 5.8 ml | Cl | ClH
reactant | acetic acid | 2.9 ml | C(C)(=O)O | C2H4O2
solvent | water | 25 ml | O | H2O
product | 4-[4-(4-hexyloxyphenyl)piperazin-1-yl]benzoic acid hydrochloride | 0.51 g | Cl.C(CCCCC)OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C23H30N2O3.ClH/c1-2-3-4-5-18-28-22-12-10-21(11-13-22)25-16-14-24(15-17-25)20-8-6-19(7-9-20)23(26)27;/h6-13H,2-5,14-18H2,1H3,(H,26,27);1H
